US07612089B2
B. Preparation of 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine
To a solution of 4-aminobenzonitrile (5.1 g, 43 mmol) in dry methanol (60 mL) at 0° C., hydrogen chloride gas was bubbled through until saturation was reached. The mixture was then stirred at room temperature overnight. It was concentrated in vacuo. The residue was dissolved in dry methanol (60 mL). To the solution, N-methyl ethylenediamine (19 mL, 216 mmol) was added. The mixture was then heated to reflux for 3 h. After being cooled in fridge overnight, the precipitated product was collected by filtration, then was dried on vacuum to give white solids (3.7 g). MS 176.0 (M+H).

reactant | 4-aminobenzonitrile | 43 mmol, 5.1 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrogen chloride | Cl | ClH
reactant | N-methyl ethylenediamine | 216 mmol, 19 mL | CNCCN | C3H10N2
solvent | methanol | 60 mL | CO | CH4O
product | 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine | 3.7 g | CN1C(=NCC1)C1=CC=C(C=C1)N | C10H13N3
